US08030311B2
Step 56.2: (2,6-Dichloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid methyl ester
A mixture of [4-(3-amino-pyridin-2-ylamino)-2,6-dichloro-phenyl]-acetic acid methyl ester (4.5 g, 13.8 mmol) and triethyl orthoformate (60 mL, 361 mmol, 26 equiv) is stirred for 13.5 h at reflux. The resulting mixture is allowed to cool to rt and concentrated in vacuo to provide the title compound as a dark solid: ES-MS: 336.0/338.0 [M+H]+; tR=4.58 min (System 1); Rf=0.28 (Hexane/EtOAc, 1:1).

reactant | [4-(3-amino-pyridin-2-ylamino)-2,6-dichloro-phenyl]-acetic acid methyl ester | 13.8 mmol, 4.5 g | COC(CC1=C(C=C(C=C1Cl)NC1=NC=CC=C1N)Cl)=O | C14H13Cl2N3O2
reactant | triethyl orthoformate | 361 mmol, 60 mL, 26 equiv | C(OCC)(OCC)OCC | C7H16O3
product | (2,6-Dichloro-4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1Cl)N1C=NC=2C1=NC=CC2)Cl)=O | C15H11Cl2N3O2
